US07867629B2
(2) 6-(10-naphthalen-2-yl-anthracen-9-yl)-2-phenyl-imidazo [1,2-a] pyridine (Compound 26-8)
Dissolving 2.0 g (7.3 mmol) of 6-bromo-2-phenyl-imidazo [1,2-a] pyridine, 2.5 g (11 mmol) of 10-naphthalen-2-yl-anthracene-9-boronic acid and 0.17 g of tetrakis (triphenylphosphine) palladium into 20 milliliter of 1,2-dimethoxyethane, adding 11 milliliter of 2.0M sodium carbonate aqueous solution, the resultant suspension was refluxed under heating for 7 hours. After completion of the reaction, separation with filtration was carried out and resultant crystal were washed with water and methanol, thereby obtaining 2.7 g of yellowish white solids (yield: 75%). As a result of mass spectrum (MS) analysis, the yellowish white solids were identified as the aimed substance, and it was recognized that m/e=496 for molecular weight of 496.19.

reactant | 6-bromo-2-phenyl-imidazo [1,2-a] pyridine | 7.3 mmol, 2.0 g | BrC=1C=CC=2N(C1)C=C(N2)C2=CC=CC=C2 | C13H9BrN2
reactant | 10-naphthalen-2-yl-anthracene-9-boronic acid | 11 mmol, 2.5 g | C1=C(C=CC2=CC=CC=C12)C1=C2C=CC=CC2=C(C2=CC=CC=C12)B(O)O | C24H17BO2
reactant | sodium carbonate | 2.0M, 11 milliliter | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis (triphenylphosphine) palladium | 0.17 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,2-dimethoxyethane | 20 milliliter | COCCOC | C4H10O2
product | 6-(10-naphthalen-2-yl-anthracen-9-yl)-2-phenyl-imidazo [1,2-a] pyridine | 2.7 g, yield: 75% | C1=C(C=CC2=CC=CC=C12)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C=CC=2N(C1)C=C(N2)C2=CC=CC=C2 | C37H24N2
